US06924294B2
A. 3-Fluoro-biphenyl-4-carbonitrile
To a solution of 4-bromo-2-fluorobenzonitrile (1.12 g, 5.6 mmol) in 1,2-dimethoxyethane (10 mL) were added Phenyl boronic acid (750 mg, 6.16 mmol), tetrakis(triphenylphosphine)palladium (0) (194 mg, 0.17 mmol) and Cesium fluoride (1.8 g, 12.3 mmol). The mixture of reaction was stirred at 100° C. under nitrogen for 3 h. Then, the mixture is cooled and filter through celite. Then added ethyl acetate and water and extracted (3×). The crude was purified by chromatography (silica gel, hexane-ethyl acetate 10:1) affordind 818 mg (74% yield)n of the title compound.

reactant | 4-bromo-2-fluorobenzonitrile | 5.6 mmol, 1.12 g | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
reactant | Phenyl boronic acid | 6.16 mmol, 750 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Cesium fluoride | 12.3 mmol, 1.8 g | [F-].[Cs+]
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.17 mmol, 194 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Fluoro-biphenyl-4-carbonitrile | 74% yield | FC=1C=C(C=CC1C#N)C1=CC=CC=C1 | C13H8FN
